US08314108B2
5-(5-(2-Hydroxy-6-methoxyphenyl)-1H-pyrazol-3-ylamino)pyrazine-2-carbonitrile
A 10 L flange-neck flask equipped with an air stirrer rod and paddle, thermometer, water condenser, and outlet to caustic solution gas scrubbers is charged with 5-(5-(2-methoxy-6-(4-methoxybenzyloxy)phenyl)-1H-pyrazol-3-ylamino)pyrazine-2-carbonitrile (140 g, 326.76 mmol) and 4 N hydrogen chloride (2500 mL, 10.0 mole) solution in 1,4-dioxane. The mixture is well stirred at 60-65° C. for 1.5 h, then the mixture is allowed to cool to 50° C. After a total of 4 h, more 4 N hydrogen chloride in 1,4-dioxane is added (1000 mL) and heating to 65° C. resumed. After one hour at this temperature the heating is stopped and the mixture allowed to cool to room temperature overnight with stirring. The mixture is filtered through a large sintered funnel The solid collected is washed with fresh 1,4-dioxane and then pulled dry briefly. The bulk filter cake is returned to the 10 L flask and vigorously stirred with water (2 L) and ethyl acetate (3.5 L). The mixture is then made alkaline by adding concentrated ammonia (440 mL). The solution is filtered and then transferred to a 5 L separatory funnel The aqueous layer is separated and extracted again with ethyl acetate (0.5 L). The combined organic layers are washed with brine, dried over sodium sulfate, filtered, and concentrated. The solid is dried in vacuo at 45° C. to give 101.3 g. The crude product is suspended in warm anhydrous tetrahydrofuran (2.2 L) and loaded onto a pad of silica (1 kg) wet packed using iso-hexane. The product is eluted with ethyl acetate. The combined fractions are partially concentrated and the resulting precipitate is collected by filtration and dried in vacuo at 40° C. overnight to give 60.9 g. LC-ES/MS m/z 309.2 [M+1]+.

reactant | 5-(5-(2-methoxy-6-(4-methoxybenzyloxy)phenyl)-1H-pyrazol-3-ylamino)pyrazine-2-carbonitrile | 326.76 mmol, 140 g | COC1=C(C(=CC=C1)OCC1=CC=C(C=C1)OC)C1=CC(=NN1)NC=1N=CC(=NC1)C#N | C23H20N6O3
reactant | hydrogen chloride | 10.0 mole, 4 N, 2500 mL | Cl | ClH
reactant | hydrogen chloride | 4 N | Cl | ClH
reactant | iso-hexane | CCCC(C)C | C6H14
solvent | 1,4-dioxane | O1CCOCC1 | C4H8O2
solvent | tetrahydrofuran | 2.2 L | O1CCCC1 | C4H8O
product | 5-(5-(2-Hydroxy-6-methoxyphenyl)-1H-pyrazol-3-ylamino)pyrazine-2-carbonitrile | OC1=C(C(=CC=C1)OC)C1=CC(=NN1)NC=1N=CC(=NC1)C#N | C15H12N6O2
